US08466167B2
A solution of 3,5-dichloropicolinonitrile (1.0 eq.), methyl 4-ethynyl-3-methylbenzoate (from the previous step) (1.0 eq.), bis(triphenyl-phosphine)palladium chloride (10 mol %), copper iodide (10 mol %), and triethylamine (5.0 eq.) in DMF (0.04 M) was stirred at 60° C. for 4 hours. After cooling to ambient temperature, the reaction mixture was diluted with ethyl acetate and water. The two phases were separated. The organic layer was washed twice with water, dried over anhydrous MgSO4, and concentrated en vaccuo. The crude material was purified by flash chromatography on a COMBIFLASH® system (ISCO) using 0-80% ethyl acetate in hexane to give methyl 4-((5-chloro-6-cyanopyridin-3-yl)ethynyl)-3-methylbenzoate as a white solid.

reactant | 3,5-dichloropicolinonitrile | 1.0 eq. | ClC=1C(=NC=C(C1)Cl)C#N | C6H2Cl2N2
reactant | methyl 4-ethynyl-3-methylbenzoate | C(#C)C1=C(C=C(C(=O)OC)C=C1)C | C11H10O2
reactant | triethylamine | 5.0 eq. | C(C)N(CC)CC | C6H15N
solvent | DMF | 0.04 M | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
catalyst | bis(triphenyl-phosphine)palladium chloride | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper iodide | [Cu](I)I
product | methyl 4-((5-chloro-6-cyanopyridin-3-yl)ethynyl)-3-methylbenzoate | ClC=1C=C(C=NC1C#N)C#CC1=C(C=C(C(=O)OC)C=C1)C | C17H11ClN2O2
